US07485752B2
Benzoic acid N′-(3,3-diphenyl-propionyl)-N′-isopropyl-hydrazide
A solution of 3,3-diphenylpropionic acid (127 mg, 0.56 mmoles) and benzoic acid N′-isopropyl-hydrazide (100 mg, 0.56 mmoles) in DMF (5 mL) was treated with triethylamine (0.23 mL, 1.68 mmol), HOBT (91 mg, 0.67 mmoles) and EDCI (129 mg, 0.67 mmol) at room temperature for 18 h. The reaction mixture was partitioned between water and dichloromethane. The organic layer was washed with water, dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 30-50% ethyl acetate/hexanes gradient to afford the product as a solid (59 mg, 27%). LC-MS m/e 387.26 (M+H+)

reactant | 3,3-diphenylpropionic acid | 0.56 mmoles, 127 mg | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | benzoic acid N′-isopropyl-hydrazide | 0.56 mmoles, 100 mg | C(C)(C)NNC(C1=CC=CC=C1)=O | C10H14N2O
reactant | triethylamine | 1.68 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.67 mmoles, 91 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.67 mmol, 129 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Benzoic acid N′-(3,3-diphenyl-propionyl)-N′-isopropyl-hydrazide | 59 mg, 27% | C1(=CC=CC=C1)C(CC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C)C1=CC=CC=C1 | C25H26N2O2
